US07723330B2
Step B: Preparation of N-(3-fluoro-4-(3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)biphenyl-3-carboxamide:
To a flask containing N-(3-fluoro-4-(1-(4-methoxybenzyl)-3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)biphenyl-3-carboxamide (10 mg, 0.015 mmol) at room temperature under a drying tube was added TFA (1 mL). The solution was warmed to 50° C. for 3 hours. After cooling to ambient temperature, the solution was concentrated, and the residue was redissolved in 5 mL dichloromethane and stirred rapidly with 5 mL 10% sodium carbonate solution to provide the free base. The organic layer was isolated, dried (MgSO4), filtered and concentrated. The crude product was passed through a small gravity silica cartridge with 95/5 dichloromethane/MeOH to provide the desired product as a clear oil (2.2 mg, 27% yield). 1H NMR (400 MHz, CDCl3) δ 9.40 (br s, 1H), 8.20 (d, 1H), 8.11 (m, 1H), 8.01 (m, 1H), 7.92 (m, 1H), 7.85 (m, 1H), 7.82 (m, 1H), 7.65 (m, 2H), 7.60 (m, 1H), 7.50 (m, 2H), 7.41 (m, 2H), 7.30 (m, 1H), 6.10 (d, 1H), 4.54 (m, 1H), 3.73 (br m, 1H), 2.89 (br m, 2H), 2.34 (s, 3H), 2.24 (br m, 3H), 1.68 (br m, 2H). LCMS (APCI+): m/z 537 (M+1) detected.

reactant | N-(3-fluoro-4-(1-(4-methoxybenzyl)-3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)biphenyl-3-carboxamide | 0.015 mmol, 10 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2NC2CCN(CC2)C)CC2=CC=C(C=C2)OC)NC(=O)C=2C=C(C=CC2)C2=CC=CC=C2 | C39H37FN6O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)biphenyl-3-carboxamide | 2.2 mg, 27% yield | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2NC2CCN(CC2)C)NC(=O)C=2C=C(C=CC2)C2=CC=CC=C2 | C31H29FN6O2
